US05767116
A solution of 8-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (5 g) in tetrahydrofuran (50 ml) was brought to reflux temperature under nitrogen and borane-dimethyl sulphide complex (10M solution in dimethyl sulphide; 5 ml) was added dropwise. The mixture was then heated under gentle reflux for 5 hours, allowed to stand at ambient temperature for 16 hours, then cooled in ice and quenched by the cautious addition of water. The mixture was then acidified by the addition of 5M hydrochloric acid, heated to drive off dimethyl sulphide, cooled, basified by the addition of aqueous sodium hydroxide solution (5M), and the product extracted into ethyl acetate. The extracts were washed with water, dried over magnesium sulphate, and the solvents were removed to leave 1-(8-methoxy-1,2,3,4-tetrahydronaphth-2-yl)methanol as a pale yellow syrup (3.8 g), which solidified slowly at ambient temperature.

reactant | 8-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 5 g | COC=1C=CC=C2CCC(CC12)C(=O)O | C12H14O3
reactant | borane dimethyl sulphide | 10M, 5 ml | B.CSC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(8-methoxy-1,2,3,4-tetrahydronaphth-2-yl)methanol | 3.8 g | COC=1C=CC=C2CCC(CC12)CO | C12H16O2
